US08183255B2
Intermediate J(i): tert-butyl 3-amino-6,6-dimethyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate
To a suspension of tert-butyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate (8.5 g, 33.9 mmol) and diisopropyl ethylamine (18 mL, 3.0 equiv) in dichloromethane (200 mL) was added 2-(trimethylsilyl)ethoxymethyl chloride (6.0 mL, 1.0 equiv) dropwise at 0° C. under nitrogen. The mixture was been stirred at 0° C. under nitrogen for two hours then warmed to room temperature and stirred over night. The reaction mixture was concentrated and purified by column chromatography to give the title compound J(i) as a white solid (2.27 g, 18%). 1H NMR (400 MHz, METHANOL-d4): δ ppm 0.81-0.97 (m, 2H) 1.45-1.59 (m, 9H) 1.72 (d, J=5.29 Hz, 13H) 3.53-3.67 (m, 2H) 4.26 (d, J=7.55 Hz, 2H) 5.17 (s, 2H). 2D-NOESY NMR showed proton at 5.17 ppm is correlated with proton at 1.72 ppm.

reactant | tert-butyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate | 33.9 mmol, 8.5 g | NC=1C2=C(NN1)C(N(C2)C(=O)OC(C)(C)C)(C)C | C12H20N4O2
reactant | diisopropyl ethylamine | 18 mL, 3.0 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 6.0 mL, 1.0 equiv | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | tert-butyl 3-amino-6,6-dimethyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate | NC=1C2=C(N(N1)COCC[Si](C)(C)C)C(N(C2)C(=O)OC(C)(C)C)(C)C | C18H34N4O3Si
